US04810800
1,3-Dihydro-1-(2-thiazolylmethyl)-2H-imidazole-2-thione
In a 500 ml round bottom blask is placed 6 g (0.053 mol) 2-thiazolecarboxaldehyde, 7.0 g (0.053 mol) aminoacetaldehyde diethylacetal, 0.1 g TsOH and 150 ml ethanol. The reaction is refluxed 2 hours, cooled and concentrated. The residue is redissolved in 200 ml ethanol and 2.3 g (0.06 mol) NaBH4 added. The reaction is refluxed 4 hours then poured onto 500 ml water. The amino derivative is extracted into CH2Cl2 (2×100 ml), dried (Na2SO4) and concentrated to give an orange oil. The entire product is dissolved in 200 ml ethanol and 5.1 g (0.053 mol) KSCN, 30 ml water and 8 ml concentrated HCl added. The reaction is refluxed for 6 hours, cooled and then poured onto 1 liter ice water. The tan solid is collected and dried.

reactant | 2-thiazolecarboxaldehyde | 0.053 mol, 6 g | S1C(=NC=C1)C=O | C4H3NOS
reactant | aminoacetaldehyde diethylacetal | 0.053 mol, 7.0 g | C(C)OC(CN)OCC | C6H15NO2
reactant | TsOH | 0.1 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaBH4 | 0.06 mol, 2.3 g | [BH4-].[Na+]
reactant | KSCN | 0.053 mol, 5.1 g | C(#N)[S-].[K+]
reactant | HCl | 8 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 1,3-Dihydro-1-(2-thiazolylmethyl)-2H-imidazole-2-thione | S1C(=NC=C1)CN1C(NC=C1)=S | C7H7N3S2
